US07393858B2
(2R,3R,4R,αRS)-α-(3-Buten-1-yl)-2-{(1R)-1-[3,5-bis(trifluoromethyl)phenyl]ethoxy}tetrahydro-3-phenyl-2H-pyran-4-methanol
3-Butenylmagnesium bromide (0.5M in tetrahydrofuran, 75 mL, 37.5 mmol) was added slowly to a stirred, cooled −78° C. solution of (2R,3R,4R)-2-{(1R)-1-[3,5-bis(trifluoromethyl)phenyl]ethoxy}tetrahydro-3-phenyl-2H-pyran-4-carboxaldehyde (WO 00/56727A1; 11.1 g, 24.9 mmol) in tetrahydrofuran (125 mL). The mixture was stirred at −78° C. for 3 hours, then at room temperature for 1.5 hour. Saturated aqueous ammonium chloride (20 mL) was added slowly, followed by ethyl acetate (300 mL). The layers were separated and the organic layer was washed with brine (100 mL). The combined aqueous layers were extracted with ethyl acetate (100 mL), the combined organic layers were dried (Na2SO4), and the solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with hexane/EtOAc (97:3 increasing to 80:20), to give the title compound (8:1 mixture of alcohol diastereoisomers) as a colorless oil (10 g, 80%).

reactant | 3-Butenylmagnesium bromide | 37.5 mmol, 0.5M, 75 mL | C(CC=C)[Mg]Br
reactant | (2R,3R,4R)-2-{(1R)-1-[3,5-bis(trifluoromethyl)phenyl]ethoxy}tetrahydro-3-phenyl-2H-pyran-4-carboxaldehyde | 24.9 mmol, 11.1 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@H]1OCC[C@H]([C@@H]1C1=CC=CC=C1)C=O)(F)F | C22H20F6O3
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
reactant | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
product | (2R,3R,4R,αRS)-α-(3-Buten-1-yl)-2-{(1R)-1-[3,5-bis(trifluoromethyl)phenyl]ethoxy}tetrahydro-3-phenyl-2H-pyran-4-methanol | 10 g, 80% | C(CC=C)C(O)[C@H]1[C@@H]([C@H](OCC1)O[C@H](C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=CC=C1 | C26H28F6O3
